US07601716B2
[1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-(4-methylpiperazin-1-yl)methanone
1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine-7-carboxylic acid (40 mg) was reacted with 1-methyl piperazine as in General Procedure 8 to give the title compound as an orange foam (65% yield). M.p. (foam), LCMS: m/z=388.08 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.28 (s, 3H), 2.32-2.38 (m, 4H), 3.41 (t, J=5.0 Hz, 2H), 3.53-3.61 (m, 4H), 3.62-3.65 (m, 2H), 4.44 (s, 2H), 5.07 (bs, 1H), 6.61 (s, 1H), 6.89-6.94 (m, 2H), 6.98-7.04 (m, 1H), 7.59 (d, J=1.5 Hz, 1H).

reactant | 1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine-7-carboxylic acid | 40 mg | FC1=C(CN2C3=C(NCC2)N=CC(=C3)C(=O)O)C=C(C=C1)F | C15H13F2N3O2
reactant | 1-methyl piperazine | CN1CCNCC1 | C5H12N2
product | [1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-(4-methylpiperazin-1-yl)methanone | 65% yield | FC1=C(CN2C3=C(NCC2)N=CC(=C3)C(=O)N3CCN(CC3)C)C=C(C=C1)F | C20H23F2N5O
